US06197552B1
The washed cells described above were added to 10 ml of 50 mM Tris-HCl buffer (pH 7.2) containing 100 mM 2′-deoxyribose-1-phosphoric acid and 100 mM 2,6-diaminopurine hemisulfate to a washed cell-concentration of 50 g/ and reacted at 60° C. for 2 hours. The concentration of 2,6-diaminopurine-2′-deoxyriboside produced in the reaction solution was measured by high performance liquid chromatography. The results are shown in Table 1.

reactant | 2,6-diaminopurine hemisulfate | 100 mM | S(=O)(=O)(O)O.NC1=NC(=C2NC=NC2=N1)N.NC1=NC(=C2NC=NC2=N1)N
reactant | Tris-HCl | 50 mM, 10 ml, pH 7.2 | C(C(CO)(CO)N)O.Cl
product | 2,6-diaminopurine-2′-deoxyriboside | C1[C@@H]([C@H](O[C@H]1N2C=NC3=C2N=C(N=C3N)N)CO)O | C10H14N6O3
